US04499220
Preparation of bis(1,2,2,6,6-pentamethyl-4-piperidyl)fumarate/vinyl acetate copolymer
Bis(1,2,2,6,6-pentamethyl-4-piperidyl)fumarate 2.1 g, vinyl acetate 1.7 g and dicumylperoxide 0.03 g were dissolved in 5 ml of toluene and stirred at 120° C. for five hours. The solvent and unreacted vinyl acetate were distilled off and a glassy solid was obtained. (Stabilizer No. I)

reactant | Bis(1,2,2,6,6-pentamethyl-4-piperidyl)fumarate | 2.1 g | CN1C(CC(CC1(C)C)\C(=C(/C(=O)[O-])\C1CC(N(C(C1)(C)C)C)(C)C)\C(=O)[O-])(C)C
reactant | vinyl acetate | 1.7 g | C(C)(=O)OC=C | C4H6O2
reactant | dicumylperoxide | 0.03 g | C(C)(C)(C1=CC=CC=C1)OOC(C)(C)C1=CC=CC=C1 | C18H22O2
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | bis(1,2,2,6,6-pentamethyl-4-piperidyl)fumarate vinyl acetate | CN1C(CC(CC1(C)C)\C(=C(/C(=O)[O-])\C1CC(N(C(C1)(C)C)C)(C)C)\C(=O)[O-])(C)C.C(C)(=O)OC=C | InChI=1S/C24H42N2O4.C4H6O2/c1-21(2)11-15(12-22(3,4)25(21)9)17(19(27)28)18(20(29)30)16-13-23(5,6)26(10)24(7,8)14-16;1-3-6-4(2)5/h15-16H,11-14H2,1-10H3,(H,27,28)(H,29,30);3H,1H2,2H3/p-2/b18-17+;
